2197-10-29 11:42:00 Physician Attending Progress Note
Chief Complaint: s/p b/l BKA, septic shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated this AM and doing well on 2L nasal cannula
   24 Hour Events:
 EKG - At [**2197-10-28**] 09:00 AM
 WOUND CULTURE - At [**2197-10-28**] 10:02 AM
   R BKA incision site
 BLOOD CULTURED - At [**2197-10-28**] 10:30 AM
 URINE CULTURE - At [**2197-10-28**] 10:30 AM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Last dose of Antibiotics:
   Vancomycin - [**2197-10-28**] 08:00 PM
   Meropenem - [**2197-10-29**] 07:56 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Respiratory: Cough
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2197-10-29**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 81 (76 - 94) bpm
   BP: 148/62(96) {127/51(80) - 164/76(113)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,011 mL
                                                                    350 mL
   PO:
             TF:
   IVF:
                                                                    701 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    417 mL
   Urine:
                                                                  1,195 mL
                                                                    417 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -184 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 402 (402 - 466) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.27/44/155/18/-6
   NIF: -29 cmH2O
   Ve: 6.5 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: R > L, Rhonchorous: throughout), weak cough
   Abdominal: Soft, Non-tender
   Extremities: R stump dressed, L without erythema
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   9.8 g/dL
   247 K/uL
   154 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.7 mEq/L
   30 mg/dL
   110 mEq/L
   140 mEq/L
   31.0 %
   8.6 K/uL
        [image002.jpg]
                            [**2197-10-27**]  03:00 PM
                            [**2197-10-27**]  06:45 PM
                            [**2197-10-27**]  09:11 PM
                            [**2197-10-27**]  09:39 PM
                            [**2197-10-28**]  03:10 AM
                            [**2197-10-28**]  03:44 AM
                            [**2197-10-28**]  08:46 AM
                            [**2197-10-28**]  06:17 PM
                            [**2197-10-29**]  05:21 AM
                            [**2197-10-29**]  05:25 AM
   WBC
   11.7
   14.1
   8.6
   Hct
   30.2
   33.2
   31.0
   Plt
   199
   244
   247
   Cr
   1.1
   1.1
   1.0
   TropT
   0.57
   TCO2
   23
   22
   22
   21
   22
   21
   Glucose
   93
   100
   101
   154
   Other labs: PT / PTT / INR:43.6/40.9/4.6, CK / CKMB /
   Troponin-T:64/10/0.57, ALT / AST:[**12-22**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:19/9, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   LDH:113 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   65 yo man s/p b/l [**Hospital 12117**] transferred from CVICU to MICU service.  He had
   an episode of hypotension earlier in stay in setting of SVT
 responded
   to DCCV.  Back in ICU with hypotension and hypercarbic respiratory
   failure.
   1. Respiratory Failure: Now extubated.  Has weak cough and wil need
   ongoing pulmonary toilet.  On CellCept for respiratory muscle myopathy
   vs. MG --> will touch base with outside neurologist to clarify dx.
   2. Metabolic acidosis:
   3. Septic shock:  Off pressors.  Will return pressors to baseline
   tomorrow.  Treating possility of wound infection with vanc/[**Last Name (un) 614**]
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-10-27**] 06:29 AM
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   20 Gauge - [**2197-10-27**] 06:33 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2197-10-30 10:19:00 Physician Attending Progress Note
Chief Complaint: s/p b/l BKAs
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday, doing well
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2197-10-29**] 08:15 AM
   Amio gtt D/C'd for bradycardia
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Last dose of Antibiotics:
   Vancomycin - [**2197-10-29**] 08:00 PM
   Meropenem - [**2197-10-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2197-10-29**] 08:30 PM
   Metoprolol - [**2197-10-30**] 09:25 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2197-10-30**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 69 (54 - 90) bpm
   BP: 134/56(88) {91/38(57) - 166/74(112)} mmHg
   RR: 13 (9 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                    924 mL
                                                                  1,437 mL
   PO:
             TF:
   IVF:
                                                                    784 mL
                                                                  1,437 mL
   Blood products:
   Total out:
                                                                    767 mL
                                                                    110 mL
   Urine:
                                                                    767 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    157 mL
                                                                  1,327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.27/45/74/23/-5
   PaO2 / FiO2: 211
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: R BKA stump dressed, L BKA stump non-erythematous
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, still mildly
   confused
   Labs / Radiology
   10.5 g/dL
   318 K/uL
   168 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.6 mEq/L
   33 mg/dL
   112 mEq/L
   143 mEq/L
   34.2 %
   10.6 K/uL
        [image002.jpg]
                            [**2197-10-27**]  09:11 PM
                            [**2197-10-27**]  09:39 PM
                            [**2197-10-28**]  03:10 AM
                            [**2197-10-28**]  03:44 AM
                            [**2197-10-28**]  08:46 AM
                            [**2197-10-28**]  06:17 PM
                            [**2197-10-29**]  05:21 AM
                            [**2197-10-29**]  05:25 AM
                            [**2197-10-29**]  04:51 PM
                            [**2197-10-30**]  01:56 AM
   WBC
   11.7
   14.1
   8.6
   10.6
   Hct
   30.2
   33.2
   31.0
   34.2
   Plt
   199
   244
   247
   318
   Cr
   1.1
   1.1
   1.0
   0.9
   TropT
   0.57
   TCO2
   22
   22
   21
   22
   21
   22
   Glucose
   100
   101
   154
   168
   Other labs: PT / PTT / INR:65.2/42.5/7.5, CK / CKMB /
   Troponin-T:64/10/0.57, ALT / AST:[**12-22**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:19/9, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   LDH:113 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   65 yo man s/p b/l [**Hospital 12117**] transferred from CVICU to MICU service.  He had
   an episode of hypotension earlier in stay in setting of SVT
 responded
   to DCCV.  Back in ICU with hypotension and hypercarbic respiratory
   failure.
   1. Respiratory Failure: Extuated yesterday, doing well.  Cont CellCept
   2. Metabolic acidosis: Resolving - HCO3 23
   3. Septic shock:  Off pressors.  Cont vanc/[**Last Name (un) 614**].  Taper steroids to
   baseline dose.
   4. MS: Remains confused
   5. Elevated INR: Hold Coumadin, arecheck INR this afternoon
   6. SVT: Amio load initiated.  Holding further iv amio for the moment
   given bradycardia.  Will restart po when swallow improved
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-10-27**] 06:29 AM
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   20 Gauge - [**2197-10-27**] 06:33 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Pt is critically ill.
   Total time spent: 31 minutes

2197-10-31 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p b/l BKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had a repeat episode of hypercarbic resp failure yest --> was on BiPap
   overnight.
   pCO2 rose to 56 with 30 min off BiPap this AM --> restarted
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2197-10-30**] 04:50 PM
 EKG - At [**2197-10-30**] 08:19 PM
   c/o [**1-24**] CP---resolved without intervention.  Resolved when taking EKG
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Last dose of Antibiotics:
   Vancomycin - [**2197-10-30**] 10:00 AM
   Meropenem - [**2197-10-31**] 12:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-10-30**] 05:00 PM
   Famotidine (Pepcid) - [**2197-10-31**] 01:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: NIPPV
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2197-10-31**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 89 (60 - 96) bpm
   BP: 144/68(101) {103/50(72) - 178/84(124)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,097 mL
                                                                    257 mL
   PO:
             TF:
   IVF:
                                                                  2,097 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    680 mL
   Urine:
                                                                  1,155 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    942 mL
                                                                   -423 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: Apnea Ventilation
   Vt (Spontaneous): 902 (148 - 902) mL
   PS : 10 cmH2O
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.19/56/91/21/-7
   Ve: 2.5 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered), on BiPap
   Abdominal: Soft, Non-tender
   Extremities: L BKA site C/D/I, R BKA with purulent drainage from medial
   side of wound
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, remains confused
   Labs / Radiology
   11.6 g/dL
   559 K/uL
   147 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.9 mEq/L
   35 mg/dL
   110 mEq/L
   141 mEq/L
   38.4 %
   14.8 K/uL
        [image002.jpg]
                            [**2197-10-29**]  04:51 PM
                            [**2197-10-30**]  01:56 AM
                            [**2197-10-30**]  03:55 PM
                            [**2197-10-30**]  03:58 PM
                            [**2197-10-30**]  04:11 PM
                            [**2197-10-30**]  05:58 PM
                            [**2197-10-30**]  08:43 PM
                            [**2197-10-31**]  03:06 AM
                            [**2197-10-31**]  03:14 AM
                            [**2197-10-31**]  08:15 AM
   WBC
   10.6
   15.4
   14.8
   Hct
   34.2
   40.4
   38.4
   Plt
   [**Telephone/Fax (3) 12155**]
   Cr
   0.9
   0.9
   0.9
   TCO2
   22
   24
   24
   20
   22
   23
   22
   Glucose
   168
   184
   149
   147
   Other labs: PT / PTT / INR:13.6/28.2/1.2, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**12-22**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:19/9, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   LDH:113 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   65 yo man s/p b/l [**Hospital 12117**] transferred from CVICU to MICU service.  He had
   an episode of hypotension earlier in stay in setting of SVT
 responded
   to DCCV.  Back in ICU with hypotension and hypercarbic respiratory
   failure.  Though hypotension is resolved, he continues to require NIPPV
   1. Respiratory Failure: Extubated 2 days ago - but continung to require
   NIPPV intermittently.  Not tolerating any worsening respiratory
   acidosis due to his metalbolic acidosis - will give back some HCO3 (in
   amp form) and diuresis given evidence of volume overload on CXR.  Cont
   CellCept and baseline prednisone.
   2. Metabolic acidosis: Looked to be resolving yesterday but actually
   ongoing
   3. Septic shock:  Off pressors.  Has been on vanc and [**Last Name (un) 614**] -
   pseudomonas from wound is resistent to [**Last Name (un) 614**].  Start cefepime.
   4. MS: Remains confused
   5. Elevated INR: INR down but unable to take po's --> restart Coumadin
   when taking po's
   6. SVT: Amio load initiated.  Holding further iv amio for the moment
   given bradycardia.  Will restart po when swallow improved
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2197-10-27**] 06:29 AM
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
 while INR subtherapeutic
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2197-11-01 09:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p b/l BKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Reintubated overnight for persistent hypercarbic respiratory failure -
   had been on and off NIPPV overnight.  Secretions from ETT this AM per
   nursing report
   24 Hour Events:
 SPUTUM CULTURE - At [**2197-11-1**] 02:45 AM
 ARTERIAL LINE - STOP [**2197-11-1**] 06:29 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Last dose of Antibiotics:
   Vancomycin - [**2197-10-30**] 10:00 AM
   Meropenem - [**2197-10-31**] 10:00 AM
   Cefipime - [**2197-11-1**] 01:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2197-10-31**] 01:20 PM
   Metoprolol - [**2197-10-31**] 06:10 PM
   Heparin Sodium (Prophylaxis) - [**2197-10-31**] 08:00 PM
   Famotidine (Pepcid) - [**2197-11-1**] 12:00 AM
   Furosemide (Lasix) - [**2197-11-1**] 12:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2197-11-1**] 03:15 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2197-11-1**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.3
   HR: 64 (64 - 89) bpm
   BP: 135/57(85) {104/44(65) - 184/89(131)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                    747 mL
                                                                    343 mL
   PO:
             TF:
   IVF:
                                                                    697 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    890 mL
   Urine:
                                                                  2,170 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,423 mL
                                                                   -547 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 918 (918 - 918) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.50/26/157/20/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 523
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Eyes / Conjunctiva: R pupil reactive but small, L pupil appears
   surgical.
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: R BKA dressing C/D/I, L BKA site well-perfused
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   481 K/uL
   154 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.2 mEq/L
   36 mg/dL
   110 mEq/L
   143 mEq/L
   36.0 %
   9.6 K/uL
        [image002.jpg]
                            [**2197-10-31**]  03:12 PM
                            [**2197-10-31**]  03:17 PM
                            [**2197-10-31**]  04:13 PM
                            [**2197-10-31**]  05:05 PM
                            [**2197-10-31**]  09:04 PM
                            [**2197-10-31**]  10:26 PM
                            [**2197-11-1**]  02:04 AM
                            [**2197-11-1**]  03:52 AM
                            [**2197-11-1**]  04:08 AM
                            [**2197-11-1**]  05:23 AM
   WBC
   9.6
   Hct
   36.0
   Plt
   481
   Cr
   0.8
   0.8
   TCO2
   25
   26
   24
   26
   26
   28
   21
   21
   Glucose
   158
   154
   Other labs: PT / PTT / INR:11.9/27.9/1.0, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**12-22**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:19/9, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.0 g/dL,
   LDH:113 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   65 yo man s/p b/l [**Hospital 12117**] transferred from CVICU to MICU service.  He had
   an episode of hypotension earlier in stay in setting of SVT
 responded
   to DCCV.  Back in ICU with hypotension and hypercarbic respiratory
   failure.  Now reintubated with recurrent hypercarbic respiratory
   failure.
   1. Respiratory Failure: Now reintubated - likely that pCO2 of 40 is a
   level he cannot achieve.  CXR improved with diuresis.  Improvement in
   metabolic acidosis will allow him to breathe at higher pCO2.  Cont
   CellCept and baseline prednisone - appreciate neuro input.
   2. Metabolic acidosis: Looked to be resolving yesterday but actually
   ongoing
   3. Septic shock:  Off pressors.  But mildly hypothermic today - will
   resend blood cultures.  Has been on vanc/cefepime.
   4. MS: Decrease propofol today to wake up.  R pupil reactive but small,
   L pupil appears surgical.
   5. Elevated INR: Coumadin restarted
   6. SVT: Amio restarted
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   20 Gauge - [**2197-11-1**] 03:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: restart Coumadin, sq hparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 34 minutes
   Patient is critically ill

2197-11-02 10:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p b/l BKAs
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More awake this AM but still somnolent, no complaints
   RSBI in 40s, pCO2 did not rise further with 1 hr of SBT
   24 Hour Events:
 SPUTUM CULTURE - At [**2197-11-1**] 09:45 AM
 BLOOD CULTURED - At [**2197-11-1**] 10:00 AM
   blood cxs x2 from arterial line and poc.
 URINE CULTURE - At [**2197-11-1**] 10:00 AM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Last dose of Antibiotics:
   Vancomycin - [**2197-10-30**] 10:00 AM
   Meropenem - [**2197-10-31**] 10:00 AM
   Cefipime - [**2197-11-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2197-11-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2197-11-2**] 08:00 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2197-11-2**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 75 (62 - 88) bpm
   BP: 138/50(75) {105/42(51) - 183/69(114)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,460 mL
                                                                    542 mL
   PO:
             TF:
                                                                    258 mL
                                                                    243 mL
   IVF:
                                                                    912 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    440 mL
   Urine:
                                                                  2,550 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,091 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 369 (296 - 369) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 43
   PIP: 13 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.34/49/72/27/0
   NIF: -17 cmH2O
   Ve: 6.3 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: L stump C/D/I, R stump dressing C/D/I
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   323 K/uL
   151 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   35 mg/dL
   112 mEq/L
   146 mEq/L
   31.1 %
   6.0 K/uL
        [image002.jpg]
                            [**2197-11-1**]  02:04 AM
                            [**2197-11-1**]  03:52 AM
                            [**2197-11-1**]  04:08 AM
                            [**2197-11-1**]  05:23 AM
                            [**2197-11-1**]  10:18 AM
                            [**2197-11-1**]  12:43 PM
                            [**2197-11-1**]  04:32 PM
                            [**2197-11-2**]  02:19 AM
                            [**2197-11-2**]  02:37 AM
                            [**2197-11-2**]  08:04 AM
   WBC
   9.6
   6.0
   Hct
   36.0
   31.1
   Plt
   481
   323
   Cr
   0.8
   0.7
   TCO2
   28
   21
   21
   25
   25
   27
   28
   28
   Glucose
   154
   151
   Other labs: PT / PTT / INR:12.8/34.7/1.1, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**12-22**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:19/9, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   LDH:113 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   65 yo man s/p b/l [**Hospital 12117**] transferred from CVICU to MICU service.  He had
   an episode of hypotension earlier in stay in setting of SVT
 responded
   to DCCV.  Back in ICU with hypotension and hypercarbic respiratory
   failure.  Now reintubated with recurrent hypercarbic respiratory
   failure.
   1. Respiratory Failure: Metabolic acidosis resolved and retention of
   soome bicarb may allow him to be extubated and maintain his acid base
   status at a pCO2 of 50.  Cont CellCept and baseline prednisone.  Will
   touch base with outpt neurologist of whether he had a reaction to IVIg
   in the p[ast prior to administering.   Appreciate ongoing neuro input.
   2. Metabolic acidosis: Now resolved but has waxed and waned so will
   cont to monitor closely
   3. Septic shock:  Cont vanc/cefepime.
   4. MS: More awake today
   5. Elevated INR: Now back down, continue Coumadin
   6. SVT: Cont Amio
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   20 Gauge - [**2197-11-1**] 03:30 AM
   Arterial Line - [**2197-11-1**] 06:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2197-11-03 10:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p b/l BKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Less responsive this AM - but arousable
   Transiently hypotensive overnight --> responsive to fluid bolus,
   pressors not required
   24 Hour Events:
   IViG initiated yesterday
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Last dose of Antibiotics:
   Meropenem - [**2197-10-31**] 10:00 AM
   Cefipime - [**2197-11-3**] 04:34 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-11-2**] 02:50 PM
   Famotidine (Pepcid) - [**2197-11-3**] 04:34 AM
   Heparin Sodium (Prophylaxis) - [**2197-11-3**] 08:00 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2197-11-3**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 64 (61 - 86) bpm
   BP: 99/47(66) {69/38(52) - 149/67(98)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,740 mL
                                                                  2,367 mL
   PO:
             TF:
                                                                    600 mL
                                                                    389 mL
   IVF:
                                                                    540 mL
                                                                  1,698 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,480 mL
                                                                    320 mL
   Urine:
                                                                  2,480 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                  2,047 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 209 (209 - 345) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 30%
   RSBI: 49
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///28/
   NIF: -13 cmH2O
   Ve: 3.4 L/min
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: L BKA C/D/I, R KA with medial fluctuance and scant
   purulent discharge
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, somnolent but
   arousable
   Labs / Radiology
   8.8 g/dL
   256 K/uL
   122 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   36 mg/dL
   114 mEq/L
   147 mEq/L
   28.7 %
   4.5 K/uL
        [image002.jpg]
                            [**2197-11-1**]  04:08 AM
                            [**2197-11-1**]  05:23 AM
                            [**2197-11-1**]  10:18 AM
                            [**2197-11-1**]  12:43 PM
                            [**2197-11-1**]  04:32 PM
                            [**2197-11-2**]  02:19 AM
                            [**2197-11-2**]  02:37 AM
                            [**2197-11-2**]  08:04 AM
                            [**2197-11-2**]  05:13 PM
                            [**2197-11-3**]  04:07 AM
   WBC
   6.0
   4.5
   Hct
   31.1
   28.7
   Plt
   323
   256
   Cr
   0.7
   0.7
   0.7
   TCO2
   21
   21
   25
   25
   27
   28
   28
   Glucose
   151
   204
   122
   Other labs: PT / PTT / INR:13.9/52.8/1.2, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**12-22**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:19/9, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.6 mmol/L, Albumin:3.0 g/dL,
   LDH:113 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   65 yo man s/p b/l [**Hospital 12117**] transferred from CVICU to MICU service.  He had
   an episode of hypotension earlier in stay in setting of SVT
 responded
   to DCCV.  Back in ICU with hypotension and hypercarbic respiratory
   failure.  Now reintubated with recurrent hypercarbic respiratory
   failure.
   1. Respiratory Failure: Continues to intermittently have elevated pCO2,
   NIF in in teens.  Cont CellCept and baseline prednisone.  IVIG course
   x5 days initiated yesterday.  Will hold on extubation today and allow
   for IVIG to have some effect.  Monitor WBC count on CellCept
   2. Metabolic acidosis: Now resolved.
   3. Septic shock:  Cont vanc/cefepime.  Suspect transient hypotension
   overnight was due to over diuresis
   4. MS: Somnolent today
 cont to monitor
   5. Elevated INR: continue Coumadin
awaiting INR to come back up to
   therapeutic range.  Sq heparin until therapeutic
   6. SVT: Cont Amio
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-3**] 12:01 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   Arterial Line - [**2197-11-1**] 06:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Daily discussions with pt's wife
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2197-11-04 10:52:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man s/p BKA in CVICU, post op was extubated and required
   reintubation for hypercarbic respiratory failure.  Has a rare myopathy,
   followed by neuro.  Also with PSA stump infection
   24 Hour Events:
 ULTRASOUND - At [**2197-11-3**] 12:30 PM
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Last dose of Antibiotics:
   Cefipime - [**2197-11-4**] 06:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-3**] 09:40 PM
   Famotidine (Pepcid) - [**2197-11-4**] 06:00 AM
   Other medications:
   SSI
   chlorhex
   ASA
   Tamsolin
   plavix
   effexor
   cell cept
   lopressor
   synthroid
   senna
   colace
   coumadin
   prednisone
   pepicid
   IVIG
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-4**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 72 (64 - 82) bpm
   BP: 154/56(90) {113/42(67) - 157/72(103)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  4,406 mL
                                                                  1,869 mL
   PO:
             TF:
                                                                  1,506 mL
                                                                  1,006 mL
   IVF:
                                                                  1,940 mL
                                                                    614 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,340 mL
                                                                    620 mL
   Urine:
                                                                  1,340 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,066 mL
                                                                  1,249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 296 (296 - 348) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.34/46/112/26/-1
   Ve: 4.9 L/min
   PaO2 / FiO2: 373
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, b/l LE stumps
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Not assessed, Tone: Normal, having b/l twitching/myclonus
   Labs / Radiology
   8.9 g/dL
   202 K/uL
   128 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   34 mg/dL
   116 mEq/L
   149 mEq/L
   29.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2197-11-1**]  12:43 PM
                            [**2197-11-1**]  04:32 PM
                            [**2197-11-2**]  02:19 AM
                            [**2197-11-2**]  02:37 AM
                            [**2197-11-2**]  08:04 AM
                            [**2197-11-2**]  05:13 PM
                            [**2197-11-3**]  04:07 AM
                            [**2197-11-3**]  03:38 PM
                            [**2197-11-4**]  06:25 AM
                            [**2197-11-4**]  08:30 AM
   WBC
   6.0
   4.5
   4.9
   5.7
   Hct
   31.1
   28.7
   31.1
   29.3
   Plt
   [**Telephone/Fax (3) 12228**]02
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   25
   27
   28
   28
   26
   Glucose
   151
   204
   122
   197
   128
   Other labs: PT / PTT / INR:14.9/63.5/1.3, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**12-22**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:27/23, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL,
   LDH:113 IU/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   Poor MS:  having b/l titching/jerks.  Will get EEG and consult with
   neuro.  check TSH
   Respiratory failure:  currently MS is limiting his ability to come off
   vent.
   myopathy:  on cellcept and IVIG
   BKA/stump wound infection:  on cefepime
   Afib:  on amiodarone
   coumadin for AF.  Is sub therapeutic.  Increase coumadin dose.
   hypernatremic:  free water
   f/u urine cx from [**11-1**] (GNRs)
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-4**] 08:40 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   Arterial Line - [**2197-11-1**] 06:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2197-11-05 12:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo s/p b/l BKA, post-op respiratory failure.  yesterday having
   myoclonic jerks that spontaneously resolved.  Recurred later during
   which he got ativan with improvement.  Required ativan with
   improvement.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2197-11-4**] 09:03 PM
 STOOL CULTURE - At [**2197-11-5**] 06:02 AM
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-4**] 01:30 PM
   Cefipime - [**2197-11-5**] 11:51 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-4**] 08:50 PM
   Famotidine (Pepcid) - [**2197-11-5**] 03:11 AM
   Lorazepam (Ativan) - [**2197-11-5**] 03:35 AM
   Other medications:
   SSI
   neurontin
   tamsulosin
   effexor
   mycofenolate
   lopressor
   synthroid
   senna
   prednisone 5mg
   IVIG
   amiodaron
   coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-5**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 59 (51 - 100) bpm
   BP: 109/40(57) {80/34(45) - 159/100(108)} mmHg
   RR: 18 (11 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  4,784 mL
                                                                  2,442 mL
   PO:
             TF:
                                                                  2,046 mL
                                                                  1,184 mL
   IVF:
                                                                  1,691 mL
                                                                  1,018 mL
   Blood products:
                                                                    516 mL
   Total out:
                                                                  1,560 mL
                                                                    385 mL
   Urine:
                                                                  1,560 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,224 mL
                                                                  2,057 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (311 - 415) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, no myoclonic jerks
   Labs / Radiology
   8.4 g/dL
   158 K/uL
   172 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   38 mg/dL
   111 mEq/L
   141 mEq/L
   28.0 %
   5.3 K/uL
        [image002.jpg]
                            [**2197-11-1**]  04:32 PM
                            [**2197-11-2**]  02:19 AM
                            [**2197-11-2**]  02:37 AM
                            [**2197-11-2**]  08:04 AM
                            [**2197-11-2**]  05:13 PM
                            [**2197-11-3**]  04:07 AM
                            [**2197-11-3**]  03:38 PM
                            [**2197-11-4**]  06:25 AM
                            [**2197-11-4**]  08:30 AM
                            [**2197-11-5**]  05:55 AM
   WBC
   6.0
   4.5
   4.9
   5.7
   5.3
   Hct
   31.1
   28.7
   31.1
   29.3
   28.0
   Plt
   [**Telephone/Fax (3) 12228**]02
   158
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   27
   28
   28
   26
   Glucose
   151
   204
   122
   197
   128
   172
   Other labs: PT / PTT / INR:15.6/53.6/1.4, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**1-21**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:27/23, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL,
   LDH:177 IU/L, Ca++:6.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   Seizures:  myoclonic jerks - likely seizures.  Will get head CT
   myopathy:  continue cellcept and steroids.
   stump infection:  on vanco/cefepime.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-5**] 03:28 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2197-11-06 12:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with CAD, PVD, recent BKA.  Respiratory failure post-op.  EEG
   with seizure activity.  Started on Keppra.  Got Ativan this morning for
   myclonic jerks.
   24 Hour Events:
 EKG - At [**2197-11-6**] 02:11 AM
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-4**] 01:30 PM
   Cefipime - [**2197-11-6**] 03:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-6**] 12:37 AM
   Famotidine (Pepcid) - [**2197-11-6**] 03:26 AM
   Lorazepam (Ativan) - [**2197-11-6**] 06:12 AM
   Other medications:
   prednison 5mg
   cellcept
   IVIG
   tamsosulin
   hep s/q
   coumadin
   gabapentin
   effexor
   pepcid
   synthroid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-6**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 72 (51 - 96) bpm
   BP: 128/53(70) {91/35(49) - 134/89(93)} mmHg
   RR: 13 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
           Total In:
                                                                  4,461 mL
                                                                  1,137 mL
   PO:
           TF:
                                                                  2,176 mL
                                                                    651 mL
   IVF:
                                                                  1,618 mL
                                                                    212 mL
   Blood products:
                                                                     26 mL
                                                                      4 mL
   Total out:
                                                                    965 mL
                                                                    533 mL
   Urine:
                                                                    965 mL
                                                                    533 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,496 mL
                                                                    605 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 455 (263 - 492) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   149 K/uL
   146 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   40 mg/dL
   111 mEq/L
   138 mEq/L
   31.0 %
   5.8 K/uL
        [image002.jpg]
                            [**2197-11-2**]  02:19 AM
                            [**2197-11-2**]  02:37 AM
                            [**2197-11-2**]  08:04 AM
                            [**2197-11-2**]  05:13 PM
                            [**2197-11-3**]  04:07 AM
                            [**2197-11-3**]  03:38 PM
                            [**2197-11-4**]  06:25 AM
                            [**2197-11-4**]  08:30 AM
                            [**2197-11-5**]  05:55 AM
                            [**2197-11-6**]  06:06 AM
   WBC
   6.0
   4.5
   4.9
   5.7
   5.3
   5.8
   Hct
   31.1
   28.7
   31.1
   29.3
   28.0
   31.0
   Plt
   [**Telephone/Fax (3) 12271**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.9
   TCO2
   28
   28
   26
   Glucose
   151
   204
   122
   197
   128
   172
   146
   Other labs: PT / PTT / INR:19.7/134.4/1.8, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**1-21**], Alk Phos / T Bili:41/0.2, Amylase
   / Lipase:27/23, Differential-Neuts:75.8 %, Band:0.0 %, Lymph:18.4 %,
   Mono:4.5 %, Eos:1.2 %, Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL,
   LDH:177 IU/L, Ca++:6.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   Seizures;  Still having myoclonus and active seizures.   Starting on
   Keppra.   Will discuss with neuro about further workup.
   BKA infection:  on vanco/cefepime
   coagulopathy:  increased PTT.  Unclear reason.  Will try to get PTT
   from another venupuncture source.  hold heparin s/q
   hold coumadin
   respiratory failure:  unable to wean while still having seizures
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-5**] 09:30 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes
   Critically Ill.

2197-11-08 12:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with vasculopathy, s/q.  Post-op course complicated by stump
   wound infection, respiratory failure due to myopathy, and status
   epilepticus.  Had LP yesterday
   24 Hour Events:
   .
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2197-11-7**] 10:20 PM
   Cefipime - [**2197-11-8**] 03:53 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2197-11-8**] 03:30 AM
   Other medications:
   cellcept
   prednisone 5mg
   chlorhexidine
   plavix
   asa
   amiodarone
   lopressor
   synthroid
   senna
   colace
   acyclovir
   dilantin
   keppra
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-8**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.9
C (96.6
   HR: 74 (63 - 89) bpm
   BP: 119/42(61) {94/29(47) - 130/57(74)} mmHg
   RR: 16 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
           Total In:
                                                                  4,220 mL
                                                                  1,782 mL
   PO:
           TF:
                                                                  1,309 mL
                                                                    399 mL
   IVF:
                                                                  1,400 mL
                                                                    423 mL
   Blood products:
                                                                    951 mL
                                                                    660 mL
   Total out:
                                                                  1,255 mL
                                                                    660 mL
   Urine:
                                                                  1,255 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,965 mL
                                                                  1,122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 503 (499 - 624) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 5.7 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   119 K/uL
   115 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.5 mEq/L
   47 mg/dL
   111 mEq/L
   140 mEq/L
   28.7 %
   3.8 K/uL
        [image002.jpg]
                            [**2197-11-3**]  03:38 PM
                            [**2197-11-4**]  06:25 AM
                            [**2197-11-4**]  08:30 AM
                            [**2197-11-5**]  05:55 AM
                            [**2197-11-6**]  06:06 AM
                            [**2197-11-6**]  06:22 PM
                            [**2197-11-7**]  05:02 AM
                            [**2197-11-7**]  05:44 PM
                            [**2197-11-7**]  09:52 PM
                            [**2197-11-8**]  03:23 AM
   WBC
   4.9
   5.7
   5.3
   5.8
   5.5
   4.2
   3.2
   3.8
   Hct
   31.1
   29.3
   28.0
   31.0
   27.8
   26.9
   22.6
   20.7
   28.7
   Plt
   [**Telephone/Fax (3) **]49
   122
   134
   111
   119
   Cr
   0.7
   0.7
   0.7
   0.9
   0.8
   0.9
   0.9
   TCO2
   26
   Glucose
   197
   128
   172
   146
   237
   216
   115
   Other labs: PT / PTT / INR:19.8/45.1/1.8, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**3-26**], Alk Phos / T Bili:42/0.1,
   Amylase / Lipase:27/25, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:18.4 %, Mono:4.5 %, Eos:1.2 %, Fibrinogen:412 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:2.1 g/dL, LDH:188 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: CSF: 1WBC, 1RBC,  protein 50
   Assessment and Plan
 HYPERGLYCEMIA
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   Status epilepticus:  LP not consistent with infection so can stop
   acyclovir.  WIll discuss with neurology about appropriate regimen.
   f/u on MRI results
   Respiratory failure:  continue current vent settings as MS is limiting.
   Anemia:  Hct drop yesterday, without clear source of bleed.
   Afib: Rate controlled
   BKA wound:  on vanco/cefepime
   ICU Care
   Nutrition:
   Comments: on TFs
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   PICC Line - [**2197-11-7**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2197-11-09 12:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with vasculopathy. s/p BKA with post-op respiratory failure
   and status epilepticus.
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2197-11-7**] 10:20 PM
   Vancomycin - [**2197-11-8**] 12:00 PM
   Cefipime - [**2197-11-8**] 08:00 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   plavix
   asa
   insulin
   amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-9**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (96.9
   HR: 69 (56 - 81) bpm
   BP: 109/42(59) {93/38(52) - 130/74(80)} mmHg
   RR: 11 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  3,932 mL
                                                                  1,959 mL
   PO:
             TF:
                                                                  1,238 mL
                                                                    639 mL
   IVF:
                                                                  1,535 mL
                                                                    771 mL
   Blood products:
                                                                    660 mL
   Total out:
                                                                  1,225 mL
                                                                     97 mL
   Urine:
                                                                  1,225 mL
                                                                     97 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,707 mL
                                                                  1,862 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 506 (429 - 600) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese
   Eyes / Conjunctiva: left surgical pupil
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   149 K/uL
   120 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.9 mEq/L
   52 mg/dL
   112 mEq/L
   141 mEq/L
   32.4 %
   6.1 K/uL
        [image002.jpg]
                            [**2197-11-4**]  08:30 AM
                            [**2197-11-5**]  05:55 AM
                            [**2197-11-6**]  06:06 AM
                            [**2197-11-6**]  06:22 PM
                            [**2197-11-7**]  05:02 AM
                            [**2197-11-7**]  05:44 PM
                            [**2197-11-7**]  09:52 PM
                            [**2197-11-8**]  03:23 AM
                            [**2197-11-8**]  04:21 PM
                            [**2197-11-9**]  03:38 AM
   WBC
   5.3
   5.8
   5.5
   4.2
   3.2
   3.8
   6.1
   Hct
   28.0
   31.0
   27.8
   26.9
   22.6
   20.7
   28.7
   28.2
   32.4
   Plt
   158
   149
   122
   134
   111
   119
   149
   Cr
   0.7
   0.9
   0.8
   0.9
   0.9
   1.1
   TCO2
   26
   Glucose
   172
   146
   237
   [**Telephone/Fax (3) 12326**]
   Other labs: PT / PTT / INR:21.9/39.8/2.1, CK / CKMB /
   Troponin-T:34/10/0.57, ALT / AST:[**3-26**], Alk Phos / T Bili:42/0.1,
   Amylase / Lipase:27/25, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:18.4 %, Mono:4.5 %, Eos:1.2 %, Fibrinogen:445 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:2.1 g/dL, LDH:154 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
   Respiratory failure:  hypercarbic, mental status is limiting for
   extubation at this point.
   Status epilepticus:  seems to have responded to phenobarb.    Continue
   keppra, phenobarb, dilantin
   HOTN in the setting of phenobarb.    WIll try to bolus IVF.  If not
   responding can increase levophed dose and try higher MAP goal
   as he has diffuse vasculopathy and may require higher BP.  WIll try
   stress dose steroids.
   oliguria/acute renal failure:  likely due to HOTN
   Wound infection:  on vanco and cefepime.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-9**] 10:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   PICC Line - [**2197-11-7**] 04:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2197-11-14 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-13**] 09:00 AM
   Cefipime - [**2197-11-14**] 04:00 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-14**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.1
C (97
   HR: 72 (72 - 88) bpm
   BP: 106/51(63) {93/37(49) - 148/77(89)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  9,058 mL
                                                                  2,941 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    387 mL
   IVF:
                                                                  7,013 mL
                                                                  2,434 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  8,074 mL
                                                                  3,614 mL
   Urine:
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    984 mL
                                                                   -673 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 96%
   ABG: ///26/
   Ve: 11.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   81 K/uL
   8.9 g/dL
   209 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.0 mEq/L
   29 mg/dL
   98 mEq/L
   135 mEq/L
   27.0 %
   9.2 K/uL
        [image002.jpg]
                            [**2197-11-12**]  07:04 AM
                            [**2197-11-12**]  02:18 PM
                            [**2197-11-12**]  09:38 PM
                            [**2197-11-12**]  09:56 PM
                            [**2197-11-13**]  02:25 AM
                            [**2197-11-13**]  06:15 AM
                            [**2197-11-13**]  12:36 PM
                            [**2197-11-13**]  05:11 PM
                            [**2197-11-13**]  11:09 PM
                            [**2197-11-14**]  05:02 AM
   WBC
   9.6
   9.2
   Hct
   28.7
   28.2
   27.0
   Plt
   101
   81
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   TCO2
   26
   Glucose
   69
   122
   189
   171
   144
   154
   204
   249
   263
   209
   Other labs: PT / PTT / INR:11.3/29.1/0.9, CK / CKMB /
   Troponin-T:15/10/0.57, ALT / AST:[**3-26**], Alk Phos / T Bili:42/0.1,
   Amylase / Lipase:27/25, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:18.4 %, Mono:4.5 %, Eos:1.2 %, Fibrinogen:445 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.1 g/dL, LDH:154 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.5 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERGLYCEMIA
 .H/O ACIDOSIS, MIXED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-14**] 12:02 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   PICC Line - [**2197-11-7**] 04:00 PM
   Dialysis Catheter - [**2197-11-12**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-18 07:54:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure in context of BKA, developed
   status epilepticus.
   24 Hour Events:
   - Remained out of status yesterday, but with very slow, near
   isoelectric EEG (my read), essentially unresposive.
   - Renal following - this a.m.: HD today, goal - 2-3 L if BP tolerates,
   avoid CVVH for now; no sign renal recovery.
   - Spoke to wife about EEG/seizure last night.
   - (Renal suggested TTE in yesterday's note)
   - SBPs decent despite low MAP.
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-17**] 06:37 AM
   Cefipime - [**2197-11-18**] 04:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-17**] 08:15 AM
   Pantoprazole (Protonix) - [**2197-11-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-18**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 79 (69 - 91) bpm
   BP: 95/38(52) {92/35(50) - 114/74(78)} mmHg
   RR: 11 (11 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,633 mL
                                                                    850 mL
   PO:
             TF:
                                                                  1,323 mL
                                                                    422 mL
   IVF:
                                                                    390 mL
                                                                     98 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                     67 mL
                                                                     17 mL
   Urine:
                                                                     67 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,566 mL
                                                                    833 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 587 (506 - 601) mL
   PS : 14 cmH2O
   RR (Set): 9
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 6.3 L/min
   Physical Examination
   General: Intubated, Minimally responsive (see neuro. Below)
   Pulm: Coarse breath sounds bilaterally, anteriorly
   CV: RRR, no MRG
   ABD: Obese, soft
   Ext: Bilateral amputation, Left stump cool
 but less than yesterday)
   and dusky (stable), right stump and hand warmer than left stump and
   than yesterday
   Neuro: No response to voice, EEG desynchronizes to touch and other
   stimuli, low facial tone, eyes partially open, stable left pupil >
   right pupil (known cataract surgery), R partially PEARL, facial,
   trigeminal and glossopharyngeal nerves intact. Tone reduced, cannot
   assess strength
 minimally or non-responsive.
   Back: Sacral Decubitus
   Labs / Radiology
   59 K/uL
   7.8 g/dL
   139 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.9 mEq/L
   52 mg/dL
   106 mEq/L
   137 mEq/L
   23.3 %
   10.6 K/uL
        [image002.jpg]
                            [**2197-11-15**]  04:12 AM
                            [**2197-11-15**]  10:10 AM
                            [**2197-11-15**]  10:15 AM
                            [**2197-11-15**]  04:00 PM
                            [**2197-11-15**]  10:07 PM
                            [**2197-11-16**]  04:00 AM
                            [**2197-11-16**]  11:00 AM
                             [**2197-11-17**]  02:45 AM
                             [**2197-11-17**]  04:00 PM
                             [**2197-11-18**]  03:00 AM
   WBC
   7.8
   11.8
   17.7
   13.5
   10.6
   Hct
   25.7
   30.2
   24.7
   25.6
   22.7
   23.2
   23.3
   Plt
   52
   44
   56
   80
   59
   Cr
   0.4
   0.3
   0.4
   0.7
   0.9
   Glucose
   [**Telephone/Fax (3) 12436**]03
   155
   81
   117
   139
   Other labs: PT / PTT / INR:12.4/26.5/1.0, CK / CKMB /
   Troponin-T:11/10/0.57, ALT / AST:[**3-26**], Alk Phos / T Bili:42/0.1,
   Amylase / Lipase:27/25, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:18.4 %, Mono:4.5 %, Eos:1.2 %, Fibrinogen:445 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.4 g/dL, LDH:159 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Imaging: CHEST: Comparison is made with the prior chest x-ray of 24
   hours previous.
   Since the prior chest x-ray, the right chest tube has been removed, but
   otherwise position and status of the various lines and tubes is
   unchanged. No
   pneumothorax is identified. Pulmonary edema with bilateral pleural
   effusions
   is again noted, essentially unchanged.
   IMPRESSION: Right chest tube removed. No other changes.
   Microbiology: [**2197-11-16**] 1:30 pm STOOL     CONSISTENCY: NOT APPLICABLE
      FECAL CULTURE (Preliminary):
      CAMPYLOBACTER CULTURE (Preliminary):
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2197-11-17**]):
         REPORTED BY PHONE TO P. [**Doctor Last Name **], R.N. ON [**2197-11-17**] AT 0410.
         CLOSTRIDIUM DIFFICILE.
            FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA.
              (Reference Range-Negative).
            A positive result in a recently treated patient is of
   uncertain
            significance unless the patient is currently symptomatic
            (relapse).
   Assessment and Plan
   65M admitted [**10-18**] for R LE BKA, with course c/b afib with RVR s/p
   DCCVx1, hypotension, and hypercarbic respiratory failure, on [**10-27**]
   prompting intubation and transient pressor support.  Pt was extubated
   during hospitalization, but then had to be re-intubated on [**10-31**] due to
   recurrent respiratory failure.  Continues to be difficult to manage
   given volume overloaded state, hypotension and seizure activity.
   # Hypercarbic respiratory failure:
   Pt has a chronic metabolic alkalosis on admission (no known COPD,
   OSA).  ABG during initial event consistent with hypoventilation
   (contributors include his myopathy, medications, though unclear if he
   received dilaudid or ultram prior to intubation).  Difficult to wean
   previously and now with tube for more than two weeks, necessitating
   discussion of goals.  Can check NIF and then discuss with wife goals of
   care before trach route pursued (they have recently expressed
   reluctance). Likely contribution by encephalopathy.
   - Avoid additional sedating medications
   - Continue Cellcept (changed to IV) and home prednisone (stress dose)
   with weaning (if WBC less than 2.5, will need to decrease dose of
   cellcept by
) for treatment of MG
   - Start to wean stress-dose steroids, but perhaps after dialysis given
   some possible hypotension
   - Hold on trach for now given hx of trach in the past and family
   expressing desire not to repeat trach/peg
   - Continue PSV 14/5 50% - could trial FiO2 40% given good O2 sats, but
   would check ABG first given difficulty of interpreting VBGs.
   # Mental Status / Status Epilepticus: EEG and clinical consistent with
   diffuse encephalopathy.  Etiology unclear, but status and mental status
   followed hypotensive episodes
 most likely hypoxic brain injury
   despite negative MRI previously.  CVVHD now dc
d in attempt to increase
   levels of anti-seizure meds (HD today). Dilantin low but patient
   elderly and albumin low. Phenobarb has been therapeutic. Will discuss
   f/u MRI w/ Neurology to help evaluate prognosis, or any other input
   from them on this.  Will help plan care and determine goals of care.
   - Follow Neuro recs for anticonvulsant dosing
   - Talk to Neuro about prognosis, possibility of hypoxic brain injury
   and repeat MRI
   - Follow Dilantin, Phenobarbital levels daily for now and in context of
   initiating HD
   - Phenobarbital 100 mg QID goal level 30
   - Dilantin 300 mg TID will need to redose today for goal of 15-20
   - Continue  maintenance dose of Keppra 1500mg [**Hospital1 7**]
   - FU Neuro Recs
   - HD today - will dose seizure meds accordingly (to levels and per
   Neuro)
   # Leukocytosis: Leukocytosis improved since yesterday. On
   Vanc/Cefepime. CXR with prominent R sided infiltrate.  Cdiff positive
   which is the most likely cause of leukocytosis at this time, therefore
   oral vanc started [**11-17**]
   - F/u [**11-16**] urine cx, cefepime should cover gram negatives(three week
   course to end on [**2196-11-21**])
   - F/u wound care recs regarding decub ulcer
   - Continue oral vancomycin for c. diff for two weeks after IV course
   completed
   # Hypotension: Pressors only midodrine now.
   - wean stress dose steroids after dialysis today (hydrocort 50mg Q8hr);
   pt was on prednisone 5mg PO daily at home for necrotizing myopathy).
   Goal to keep above 90 mmHg systolic (MAP will be in 50s)
   - Continuing home Cellcept
   - Continue levothyroxine
   - holding Lopressor
   - Following blood, urine cultures, wound culture, NGTD
   - Continue Vanc/Cefepime; as treatment for pt
s wound infection and to
   cover any septic physiology.
   # Acute renal failure: Pt has hx of elevated cr and decreasing UOP.
   Suspect ATN, given pt
s recent hypotensive episodes and no recovery
   patient essentially anuric at 67 mL in 24 hours. Also muddy brown casts
   in urine.  Now off of CVVHD.  Creatinine/electrolytes WNL, but HD to
   start today.  Renal goal is -2-3 L if pressure supports.
   - Treating UTI with Cefepime; monitoring recent Ucxs.
   - HD today
   # PVD s/p recent R BKA with wound infection, and distant history L BKA.
   Most recent wound cxr from R BKA growing Pseudomonas ([**10-28**]), resistant
   to Meropenem, sensitive to Cefepime. L LE with increasing pallor and
   coolness, duskiness.
   - Continue Cefepime/Vanc (last day [**11-21**])
   - Continue aspirin, plavix
   - Limit pressors to midodrine
   #. Thrombocytopenia:  Stably low at 59 (near recent days but 80
   yesterday).  There are multiple possible etiologies, including bone
   marrow suppression in the setting of acute inflammation, drug adverse
   effect (pt is on AEDs, Vanc, Cefepime and a PPI).  HIT antibodies were
   negative. Suspect inflammation or drug induced BM toxicity, now with
   potential contribution by phenytoin. Continue to monitor.
   - Continue heparin today
 reevaluate in a.m. depending on next
   platelet count.
   - Transfusion goal >10 or greater if bleeds.
   # Anemia, chronic disease - per wife, receives chronic blood
   transfusions as outpatient.  1 unit PRBCs ordered for this AM given
   crit 22.7, and wound site c/d/i, no evidence of compartment syndrome on
   exam.  On procrit as outpatient.  No evidence of hemolysis based on
   TBIL.  Not evidently septic physiology at present, but may consider
   transfusion if lowering given near 21.
   - Maintain active type and screen
   # CAD
   - continue aspirin, plavix.
   # Systolic CHF-significantly volume up this stay.
   - Continue daily weights.
   - HD for fluid management
   # Necrotizing myopathy with history of myasthenia antibodies.  On
   cellcept/prednisone as an outpatient.  Cellcept was previously held,
   but resumed during last admission to [**Hospital1 19**] after discussion with pt's
   neurologist.  Neurologist does not think that pt
s seizures are part of
   this disease process.  S/p IVIGx 5 days.
   - continue steroids (reducing from stress dose after dialysis) and
   cell-cept
   # GERD
 on PPI
   # Hypothyroidism - continue Synthroid.
   # DM2
 sugars stable.  Cover with SSI (increased scale yesterday) and
   long acting insulin. Adjust as needed.
   - Follow when taking off stress-dose steroids.
   # FEN: Tube feeds; free water flush 50mL q6h. Will aggressively replete
   electrolytes to improve pt
s muscle tone (which should improve both
   respiratory status and peripheral circulation).
   # Prophylaxis: PPI.
   # Code:  DNR/DNI
   # Communication: Patient, wife [**Name (NI) 4617**] (cell) [**Telephone/Fax (1) 12121**], (home)
   [**Telephone/Fax (1) 12122**]; will be sure to update her with any changes in patient
   management or clinical status.
   # Disposition: ICU for now, pending improved respiratory and mental
   status; pt
s wife would like him transferred.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-17**] 11:53 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2197-10-27**] 06:31 AM
   PICC Line - [**2197-11-7**] 04:00 PM
   Dialysis Catheter - [**2197-11-12**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 65M severe PVD, myopathy, s/p RLE BKA c/b AF
   c RVR, respiratory failure [**12-19**] volume overload, ARF and nonconvulsant
   status epilepticus. No evidence of ongoing szs on bedside eeg X > 24
   hrs.  Remains unresponsive. Weaned off neo yesterday.
   Exam notable for Tm 97.7 BP 115/53 HR 82  AF RR 20 with sat 99% on PSV
   14/5  0.5.  Opens eyes spontaneously, but does not interact or follow
   commands, R pupil rx.  Rhonchi, rales bb. RRR s1s2. Soft +BS. 4+
   edema, BLE amputations--L stump dusky, cool distal ext.
   Labs notable for WBC 10.6K, HCT 23, plt 59, K+ 4.9. cr 0.9 (0.7),  VBG
   7.27/54
   Agree with plan to manage MOSF with ongoing supportive care.  There
   is no current sz activity seen on bedside eeg but he remains
   unresponsive with diffuse slowing on eeg.  Suspect some component of
   anoxic injury. We continue his current AEM,  adjusting per neuro
   recs. Consider repeating MRI.  His hypotension has resolved and he is
   now off neo.  Diarrhea losses likely contributed.  We continue
   midodrine and stress steroids at this time.  Will taper to home
   dose once off pressors X 48 hrs.  Will continue broad abx coverage
   with IV vanco / cefepime for resistant PSA wound infection / sepsis to
   complete a 3w course (started [**10-28**]).  On day 2 PO vanco for c diff.
   For respiratory failure, will continue current vent settings--MMV
   w/ PSV (14/5), off sedation. Will check NIF as deconditioning and
   weakness likely contributing to his FTW.  For ARF / ESRD,  plan
   to initate HD today.  We continue ASA / plavix for PVD, amio for AF.
   For DM, will continue glargine and RISS. Access includes port, PICC, HD
   line. ICU: TF, SSI, PPI, sq hep. Pt is DNR.  Discussion ongoing
   regarding goals of care, with possible T+G and permanent HD cath next
   week if to continue current aggressive care. Remainder of plan as
   outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2197-11-18**] 13:50 ------

2197-11-19 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure, status epilepticus, necrotizing
   myopathy, PVD with wound infection
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - STOP [**2197-11-18**] 09:11 PM
   - Did well with HD, able to take 1.5 liters off without pressor
   support.  However, temp L IJ HD line is no longer working, despite
   attempts to reposition, flush etc.  Pt will need a new line on Monday,
   per renal.  Need to discuss with patient's family if they want to
   continue HD, as pt should have IR placed tunnelled catheter placed
   instead of temporary line.
   - Spoke w. neuro re: AED dosages - make no changes, also would not
   recommend MRI to assess for anoxic brain injury at this time, can
   address w. primary neuro team on Monday.
   - became hypotensive to 80s/30s, did not respond to 500cc bolus.
   Re-started Neo. Appeared comfortable, afebrile, no tachycardia, no
   change in respiratory status.
   Allergies:
   Penicillins Rash; Hydrocodone hallucinations; Sulfa (Sulfonamide
   Antibiotics) Unknown; Haldol (Injection) (Haloperidol Lactate) Unknown;
   Vicodin (Oral) (Hydrocodone it/Acetaminophen)
   Unknown; Morphine Hallucinations;
   Atorvastatin Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy; Metoclopramide Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-17**] 06:37 AM
   Cefipime - [**2197-11-18**] 04:00 PM
   Infusions: Phenylephrine-0.3mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis)
   Pantoprazole (Protonix)
   Flowsheet Data as of  [**2197-11-19**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 68 (62 - 91) bpm
   BP: 100/34(50) {81/32(45) - 122/53(67)} mmHg
   RR: 12 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,592 mL
                                                                    719 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    403 mL
   IVF:
                                                                    832 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                     20 mL
   Urine:
                                                                     60 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,032 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 611 (417 - 611) mL
   PS : 14 cmH2O
   RR (Set): 9
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 5.8 L/min
   Physical Examination
   General: Intubated, minimally responsive
   Pulm: Coarse breath sounds bilaterally
   CV: RRR, no murmurs
   ABD: Obese, soft, non-distended
   Ext: Bilateral amputation, Left stump cool and dusky (stable)
   Back: Sacral Decubitus
   Labs / Radiology
   72 K/uL
   7.5 g/dL
   227 mg/dL
   1.0 mg/dL
   24 mEq/L
   5.0 mEq/L
   54 mg/dL
   103 mEq/L
   137 mEq/L
   23.8 %
   9.9 K/uL
        [image002.jpg]
                            [**2197-11-15**]  10:15 AM
                            [**2197-11-15**]  04:00 PM
                            [**2197-11-15**]  10:07 PM
                            [**2197-11-16**]  04:00 AM
                            [**2197-11-16**]  11:00 AM
                             [**2197-11-17**]  02:45 AM
                             [**2197-11-17**]  04:00 PM
                             [**2197-11-18**]  03:00 AM
                             [**2197-11-18**]  05:58 PM
                             [**2197-11-19**]  04:49 AM
   WBC
   11.8
   17.7
   13.5
   10.6
   9.9
   Hct
   24.7
   25.6
   22.7
   23.2
   23.3
   24.0
   23.8
   Plt
   44
   56
   80
   59
   72
   Cr
   0.3
   0.4
   0.7
   0.9
   1.0
   Glucose
   178
   190
   203
   155
   81
   117
   139
   227
   Other labs: PT / PTT / INR:11.9/25.8/1.0, CK / CKMB /
   Troponin-T:11/10/0.57, ALT / AST:[**3-26**], Alk Phos / T Bili:42/0.1,
   Amylase / Lipase:27/25, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:18.4 %, Mono:4.5 %, Eos:1.2 %, Fibrinogen:473 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:159 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR [**11-19**] - bilateral pleural effusions
   Microbiology: None new
   Assessment and Plan
   65M admitted [**10-18**] for R LE BKA, with course c/b afib with RVR s/p
   DCCVx1, hypotension, and hypercarbic respiratory failure, on [**10-27**]
   prompting intubation and transient pressor support.  Pt was extubated
   during hospitalization, but then had to be re-intubated on [**10-31**] due to
   recurrent respiratory failure.  Continues to be difficult to manage
   given volume overloaded state, hypotension and seizure activity.
   .
   # Hypercarbic respiratory failure:  Pt has a chronic metabolic
   alkalosis on admission (no known COPD, OSA).  ABG during initial event
   consistent with hypoventilation (contributors include his myopathy,
   medications, though unclear if he received dilaudid or ultram prior to
   intubation).  Difficult to wean previously and now with tube for more
   than two weeks, necessitating discussion of goals of care.  Likely
   contribution from encephalopathy.
   - Avoid additional sedating medications
   - Continue Cellcept and prednisone (stress dose) for treatment of
   necrotizing myopathy
   - would like to wean stress-dose steroids, but will hold for now given
   hypotension overnight.
   - Need to re-address Goals of care with family (and likely need for
   trach/peg), given pt
s prolonged intubation and extubation failure x 2.
   - Continue current vent settings for now
   .
   # Mental Status / Status Epilepticus: EEG and clinical consistent with
   diffuse encephalopathy.  Etiology unclear, but status and mental status
   followed hypotensive episodes
 most likely hypoxic brain injury
   despite negative MRI previously.
   - Follow Neuro recs for anticonvulsant dosing (no changes for now)
   - Per neuro weekend coverage, no indication for repeat MRI for
   prognostic purposes presently; can re-address with regular neuro team
   on Monday.
   - Follow Dilantin, Phenobarbital levels daily for now and in context of
   initiating HD
   - Phenobarbital 100 mg QID goal level 30
   - Dilantin 300 mg TIDl, goal of 15-20
   - Continue  maintenance dose of Keppra 1500mg [**Hospital1 7**]
   .
   # Hypotension: Now on Midodrine and Neo. Likely due to fluid shifts in
   the setting of HD initiation yesterday. No increase in WBC or fever to
   suggest septic etiology.  No change in respiratory status
no increased
   O2 requirement, or change in secretions
to suggest VAP.  Also no
   obvious bleeding or decrease in HCT to suggest acute blood loss.
   - Try to wean Neo today. Goal to keep above 90 mmHg systolic (MAP will
   be in 50s).
   - Continue midodrine.
   - Continue stress dose today (hydrocort 50mg Q8hr); pt was chronically
   on prednisone 5mg PO daily at home for necrotizing myopathy and will
   need a very slow taper when hypotension resolved.
   - Will wean AEDs as recommended by Neuro.
   - Continuing home Cellcept
   - Continue levothyroxine
   - holding Lopressor
   - Following blood, urine cultures, wound culture, NGTD
   - Continue Vanc/Cefepime; as treatment for pt
s wound infection and to
   cover any septic physiology.
   .
   # Acute renal failure: Pt has elevated Cr and decreasing UOP.  Suspect
   ATN, given pt
s recent hypotensive episodes and muddy brown casts in
   urine
 patient continues to be essentially anuric at 60 mL in 24
   hours.  Creatinine/electrolytes WNL, no change in volume/respiratory
   status, so no indications for emergent HD currently.  Patient received
   2hrs of HD yesterday ([**11-18**]). Current issue is mainly pt
s lack of
   access for HD given that his temporary HD line has now clotted off.
   - Need to address need for new HD access with family.  If pt is to
   continue on long-term dialysis, will need more permanent access.
   - Follow up renal recs. HD per renal and access.
   - Treating UTI with Cefepime; monitoring recent Ucxs.
   - Daily lytes.
   .
   # PVD s/p recent R BKA with wound infection, and distant history L BKA.
   Most recent wound cxr from R BKA growing Pseudomonas ([**10-28**]), resistant
   to Meropenem, sensitive to Cefepime. L LE with increasing pallor and
   coolness, duskiness.
   - Continue Cefepime/Vanc (last day [**11-21**])
   - Continue aspirin, plavix
   - Try to wean off Neo as tolerated.
   .
   # Leukocytosis: Leukocytosis improved since yesterday. On
   Vanc/Cefepime/PO vanc. Improving with C. Diff treatment.
   - F/u [**11-16**] urine cx, cefepime should cover gram negatives(three week
   course to end on [**2196-11-21**])
   - F/u wound care recs regarding decub ulcer
   - Continue oral vancomycin for c. diff for two weeks after IV course
   completed
   .
   Less active issues
   .
   #. Thrombocytopenia:  Stably low at 59 (near recent days but 80
   yesterday).  There are multiple possible etiologies, including bone
   marrow suppression in the setting of acute inflammation, drug adverse
   effect (pt is on AEDs, Vanc, Cefepime and a PPI).  HIT antibodies were
   negative. Suspect inflammation or drug induced BM toxicity, now with
   potential contribution by phenytoin. Continue to monitor.
   - Continue heparin today
 reevaluate in a.m. depending on next
   platelet count.
   - Transfusion goal >10 or greater if bleeds.
   .
   # Anemia, chronic disease - per wife, receives chronic blood
   transfusions as outpatient.  1 unit PRBCs ordered for this AM given
   crit 22.7, and wound site c/d/i, no evidence of compartment syndrome on
   exam.  On procrit as outpatient.  No evidence of hemolysis based on
   TBIL.  Not evidently septic physiology at present, but may consider
   transfusion if lowering given near 21.
   - Maintain active type and screen (last sent [**11-17**])
   .
   # CAD
   - continue aspirin, plavix.
   # Systolic CHF-significantly volume up this stay.
   - Continue daily weights.
   - HD for fluid management per renal
   .
   # Necrotizing myopathy with history of myasthenia antibodies.  On
   cellcept/prednisone as an outpatient.  Cellcept was previously held,
   but resumed during last admission to [**Hospital1 19**] after discussion with pt's
   neurologist.  Neurologist does not think that pt
s seizures are part of
   this disease process.  S/p IVIGx 5 days.
   - continue steroids (reducing from stress dose after dialysis
   initiation) and cell-cept
   .
   # GERD
 on PPI
   .
   # Hypothyroidism - continue Synthroid.
   .
   # DM2
 sugars stable.  Cover with SSI (increased scale yesterday) and
   long acting insulin. Adjust as needed.
   - Follow when weaning stress-dose steroids.
   .
   # FEN: Tube feeds; free water flush 50mL q6h. Will aggressively replete
   electrolytes to improve pt
s muscle tone (which should improve both
   respiratory status and peripheral circulation).
   # Prophylaxis: PPI. Heparin SQ [**Hospital1 7**].
   # Code:  DNR/DNI
   # Communication: Patient, wife [**Name (NI) 4617**] (cell) [**Telephone/Fax (1) 12121**], (home)
   [**Telephone/Fax (1) 12122**]; will be sure to update her with any changes in patient
   management or clinical status.
   # Disposition: ICU for now, pending improved respiratory and mental
   status.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 65M severe PVD, myopathy, s/p RLE BKA c/b AF
   c RVR, respiratory failure [**12-19**] volume overload, ARF and nonconvulsant
   status epilepticus. No evidence of ongoing szs on bedside eeg.  Remains
   unresponsive. Tolerated HD yesterday with 1.5L off.  HD line then
   stopped functioning.  Hypotensive late in night--did not imrpove after
   500cc bolus. Placed back on neo gtt.
   Exam notable for Tm 98.9  BP 99/44  HR 70  AF RR 10 with sat 99%
   on MMV-PSV 14/5  0.5.  Opens eyes spontaneously, but does not interact
   or follow commands, coarse bs b. RRR s1s2. Soft +BS. 4+ edema, BLE
   amputations--L stump remains dusky, cool distal ext unchanged.
   Labs notable for WBC 9.9, HCT 24, plt 72, K+ 5.0. cr 1.0, bun 54
   CXR--et low, b/l effusions layering, without sig change given change in
   penetration
   Agree with plan to manage MOSF with ongoing supportive care.  There
   is no current sz activity seen on bedside eeg but he remains
   unresponsive with diffuse slowing on eeg.  Suspect component of anoxic
   injury. We continue his current AED,  following levels, adjusting
   per neuro recs, will likely tapering AED in next few days. Will d/w
   neuro team utility in repeating MRI as unlikely to change current
   management.  He is back on pressors (neo) following HD run--likely from
   volume shifts.  He remains AF (on steroids) and with
   improving leukocytosis, will wean neo for MAP > 60, sys > 90.  We
   continue midodrine and stress steroids at this time.  Will taper to
   home steroid dose once off pressors X 48 hrs.  Will continue broad abx
   coverage with IV vanco / cefepime for resistant PSA wound infection /
   sepsis to complete a 3w course (started [**10-28**]).  On day 2 PO vanco for
   c diff.  For respiratory failure, will continue current vent
   settings--MMV w/ PSV (14/5), has he has failed extubation X 2 and has
   frequent apneic episodes. Will check NIF as weakness likely
   contributing to his FTW.  For ARF / ESRD,  HD as per renal schedule,
   though HD access needs to be clarified (repeat temp line vs
   tunnel).  We continue ASA / plavix for PVD, amio for AF. For DM, will
   continue glargine and RISS. Access includes port, PICC/port, HD line.
   ICU: TF, SSI, PPI, sq hep. Pt is DNR.  Discussion ongoing regarding
   goals of care, with possible T+G and permanent HD cath early next week.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2197-11-19**] 16:02 ------

2197-11-20 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure, status epilepticus, necrotizing
   myopathy, PVD with wound infection
   24 Hour Events:
   - Neuro: No seizure activity. Recheck Phenobarbital/Phenytoin levels in
   AM.
   - MAP 48 during afternoon off pressors. Neo restarted to MAP 58.
   - Per Renal Consider TTE this week to evaluate cardiac function.
   - Pt ordered for Tunneled HD line (Monday).
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2197-11-17**] 06:37 AM
   Cefipime - [**2197-11-19**] 04:00 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-19**] 08:00 AM
   Pantoprazole (Protonix) - [**2197-11-20**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-20**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 80 (65 - 81) bpm
   BP: 111/42(58) {85/30(44) - 127/51(68)} mmHg
   RR: 12 (9 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,278 mL
                                                                    491 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    347 mL
   IVF:
                                                                    668 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                     22 mL
   Urine:
                                                                     75 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,203 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 457 (430 - 657) mL
   PS : 14 cmH2O
   RR (Set): 9
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 6.3 L/min
   Physical Examination
   General: Intubated, minimally responsive
   Pulm: Coarse breath sounds bilaterally
   CV: RRR, no murmurs
   Abd: Obsese, soft, non-distended
   Ext: Bilateral amputation, left stump cool and dusky (stable)
   Back: Sacral decubitus
   Labs / Radiology
   89 K/uL
   7.3 g/dL
   221 mg/dL
   1.4 mg/dL
   22 mEq/L
   5.1 mEq/L
   64 mg/dL
   104 mEq/L
   137 mEq/L
   22.4 %
   8.7 K/uL
        [image002.jpg]
                            [**2197-11-15**]  04:00 PM
                            [**2197-11-15**]  10:07 PM
                            [**2197-11-16**]  04:00 AM
                            [**2197-11-16**]  11:00 AM
                             [**2197-11-17**]  02:45 AM
                             [**2197-11-17**]  04:00 PM
                             [**2197-11-18**]  03:00 AM
                             [**2197-11-18**]  05:58 PM
                             [**2197-11-19**]  04:49 AM
                             [**2197-11-20**]  04:19 AM
   WBC
   11.8
   17.7
   13.5
   10.6
   9.9
   8.7
   Hct
   24.7
   25.6
   22.7
   23.2
   23.3
   24.0
   23.8
   22.4
   Plt
   44
   56
   80
   59
   72
   89
   Cr
   0.3
   0.4
   0.7
   0.9
   1.0
   1.4
   Glucose
   190
   203
   155
   81
   117
   139
   227
   221
   Other labs: PT / PTT / INR:11.9/25.8/1.0, CK / CKMB /
   Troponin-T:11/10/0.57, ALT / AST:[**3-26**], Alk Phos / T Bili:42/0.1,
   Amylase / Lipase:27/25, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:18.4 %, Mono:4.5 %, Eos:1.2 %, Fibrinogen:473 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:159 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: [**11-20**] CXR - final read pending; persistent to interval worsening
   pleural effusion/fluid overload by my read
   Microbiology: [**11-19**] Urine culture - pending
   [**11-19**] Blood culture x 2 - pending
   Assessment and Plan
   65M admitted [**10-18**] for R LE BKA, with course c/b afib with RVR s/p
   DCCVx1, hypotension, and hypercarbic respiratory failure, on [**10-27**]
   prompting intubation and transient pressor support.  Pt was extubated
   during hospitalization, but then had to be re-intubated on [**10-31**] due to
   recurrent respiratory failure.  Continues to be difficult to manage
   given volume overloaded state, hypotension and seizure activity.
   Hypercarbic respiratory failure
   Pt has a chronic metabolic alkalosis on admission (no known COPD,
   OSA).  ABG during initial event consistent with hypoventilation
   (contributors include his myopathy, medications, though unclear if he
   received dilaudid or ultram prior to intubation).  Difficult to wean
   previously and now intubated for more than two weeks, necessitating
   discussion of goals of care.  Likely contribution from encephalopathy.
   - Continue current vent settings
   - Check NIF as weakness likely contributing to his failure to wean
   - Avoid additional sedating medications
   - Continue Cellcept and prednisone (stress dose) for treatment of
   necrotizing myopathy
   - Would like to wean stress-dose steroids, but will hold for now given
   hypotension
   - Need to re-address goals of care with family (and likely need for
   trach/peg), given pt
s prolonged intubation and extubation failure x 2.
   - Continue current vent settings for now
   Mental Status / Status Epilepticus
   EEG and clinical consistent with diffuse encephalopathy.  Etiology
   unclear, but status and mental status followed hypotensive episodes
   most likely hypoxic/anoxic brain injury despite negative MRI
   previously.
   - Follow Neuro recs for anticonvulsant dosing (no changes for now)
   - Per neuro weekend coverage, no indication for repeat MRI for
   prognostic purposes presently; can re-address with regular neuro team
   on Monday.
   - Follow Dilantin, Phenobarbital levels daily for now and in context of
   initiating HD
   - Phenobarbital 100 mg QID goal level 30
   - Dilantin 300 mg TIDl, goal of 15-20
   - Continue  maintenance dose of Keppra 1500mg [**Hospital1 7**]
   Hypotension
   Now on Midodrine and Neo. Likely due to fluid shifts in the setting of
   HD initiation. No increase in WBC or fever to suggest septic etiology.
   No change in respiratory status
no increased O2 requirement, or change
   in secretions
to suggest VAP.  Also no obvious bleeding or decrease in
   HCT to suggest acute blood loss.
   - Continue to try to wean Neo today. Goal to keep above 90 mmHg
   systolic (MAP will be in 50s).
   - Continue midodrine.
   - Continue stress dose today (hydrocort 50mg Q8hr); pt was chronically
   on prednisone 5mg PO daily at home for necrotizing myopathy and will
   need a very slow taper when hypotension resolved.
   - Will wean AEDs as recommended by Neuro.
   - Continuing home Cellcept
   - Continue levothyroxine
   - Holding Lopressor
   - Following blood, urine cultures, wound culture, NGTD
   - Continue Vanc/Cefepime; as treatment for pt
s wound infection and to
   cover any septic physiology.
   Acute renal failure
   Patient has elevated Cr and decreasing UOP.  Suspect ATN, given pt
   recent hypotensive episodes and muddy brown casts in urine.  Patient
   continues to be essentially anuric at 75 mL in 24 hours.
   Creatinine/electrolytes WNL, no change in volume/respiratory status, so
   no indications for emergent HD currently.  Patient received 2hrs of HD
   yesterday ([**11-18**]). Current issue is mainly patient
s lack of access for
   HD given that his temporary HD line has now clotted off.
   - Need to address need for new HD access with family.  If pt is to
   continue on long-term dialysis, will need more permanent access.
   Discuss with family repeat temporary line versus tunneled line.
   - Follow up renal recs. HD per renal and access.
   - Treating UTI with Cefepime; monitoring recent Ucxs.
   - Daily lytes.
   PVD s/p recent R BKA with wound infection, and distant history L BKA
   Most recent wound cxr from R BKA growing Pseudomonas ([**10-28**]), resistant
   to Meropenem, sensitive to Cefepime. L LE with increasing pallor and
   coolness, duskiness.
   - Continue Cefepime/Vanc (last day [**11-21**])
   - Continue aspirin, plavix
   - Try to wean off Neo as tolerated.
   Leukocytosis
   Leukocytosis improved since yesterday. On Vanc/Cefepime/PO vanc.
   Improving with C. Diff treatment.
   - F/u [**11-16**] urine cx, cefepime should cover gram negatives(three week
   course to end on [**2196-11-21**])
   - F/u wound care recs regarding decub ulcer
   - Continue oral vancomycin for c. diff for two weeks after IV course
   completed
   Thrombocytopenia
   Stably low at 59 (near recent days but 80 yesterday).  There are
   multiple possible etiologies, including bone marrow suppression in the
   setting of acute inflammation, drug adverse effect (pt is on AEDs,
   Vanc, Cefepime and a PPI).  HIT antibodies were negative. Suspect
   inflammation or drug induced BM toxicity, now with potential
   contribution by phenytoin. Continue to monitor.
   - Continue heparin today
 reevaluate in a.m. depending on next
   platelet count.
   - Transfusion goal >10 or greater if bleeds.
   Anemia, chronic disease
   Per wife, receives chronic blood transfusions as outpatient.  1 unit
   PRBCs ordered for this AM given crit 22.7, and wound site c/d/i, no
   evidence of compartment syndrome on exam.  On procrit as outpatient.
   No evidence of hemolysis based on TBIL.  Not evidently septic
   physiology at present, but may consider transfusion if lowering given
   near 21.
   - Maintain active type and screen (last sent [**11-17**])
   CAD
   - continue aspirin, plavix.
   Systolic CHF
   Significantly volume up this stay.
   - Continue daily weights.
   - HD for fluid management per renal
   Necrotizing myopathy with history of myasthenia antibodies
   On cellcept/prednisone as an outpatient.  Cellcept was previously held,
   but resumed during last admission to [**Hospital1 19**] after discussion with pt's
   neurologist.  Neurologist does not think that pt
s seizures are part of
   this disease process.  S/p IVIGx 5 days.
   - continue steroids (reducing from stress dose after dialysis
   initiation) and cell-cept
   # GERD
 on PPI
   # Hypothyroidism - continue Synthroid.
   # DM2
 sugars stable.  Cover with SSI (increased scale yesterday) and
   long acting insulin. Adjust as needed.
   - Follow when weaning stress-dose steroids.
   # FEN: Tube feeds; free water flush 50mL q6h. Will aggressively replete
   electrolytes to improve pt
s muscle tone (which should improve both
   respiratory status and peripheral circulation).
   # Prophylaxis: PPI. Heparin SQ [**Hospital1 7**].
   # Code:  DNR/DNI
   # Communication: Patient, wife [**Name (NI) 4617**] (cell) [**Telephone/Fax (1) 12121**], (home)
   [**Telephone/Fax (1) 12122**]; will be sure to update her with any changes in patient
   management or clinical status.
   # Disposition: ICU for now, pending improved respiratory and mental
   status.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-19**] 10:05 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-11-7**] 04:00 PM
   Dialysis Catheter - [**2197-11-12**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-11-21 07:32:00 Physician Resident Progress Note
Chief Complaint: Reduced level of consciousness, status epilepticus and
   respiratory failure after below knee amputation.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2197-11-20**] 03:45 PM
   - Neuro are following: To help prognosticate suggested MRI w&w/o
   - Given Renal failure, Renal very helpful to arrange dialysis
   immediately after to dialyse gadolinium.
   - EEG removed prior to MRI and replaced later
   - Dr. [**Last Name (STitle) 775**] met with family to discuss MRI prognostication - if poor
   neurologic prognosis will re-address goals of care - they are coming
   around.
   - HD line is patent (after tPA) and did not need rewiring or
   replacement.
   - MRI by our read looks unremarkable but waiting for real read.
   - Desaturating events last night, x 2 down to high 80s % - took longer
   to recover than usual. Increased sectretions and some cough yesterday.
   Was on PSV and changed back to AC given variable tidal volumes - AC of
   benefit. VBG similar to previous and no change on CXR yet.
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Metoclopramide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2197-11-20**] 06:00 PM
   Infusions:
   Phenylephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-20**] 08:00 AM
   Pantoprazole (Protonix) - [**2197-11-21**] 12:34 AM
   Dextrose 50% - [**2197-11-21**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   No further.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-21**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 100 (72 - 103) bpm
   BP: 103/40(55) {89/40(52) - 124/60(74)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  1,790 mL
                                                                    747 mL
   PO:
             TF:
                                                                    953 mL
                                                                    371 mL
   IVF:
                                                                    156 mL
                                                                    176 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                     82 mL
                                                                  2,040 mL
   Urine:
                                                                     82 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,708 mL
                                                                 -1,293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 473 (290 - 623) mL
   PS : 14 cmH2O
   RR (Set): 9
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.27/68/42/28/1
   Ve: 11.3 L/min
   PaO2 / FiO2: 84
   Physical Examination
   General
 no EEG electrodes reveal man appearing stated age or slightly
   older. NAD. Little spontaneous movement and observed no purposive
   movement. Obese habitus.
   HEENT
 normocephalic, no discharge, dry gaping mouth, throat not
   examined
   Chest
 symmetric rising, with ventilation on AC this a.m. Coarse
   sounds loudest anteriorly upper right, but heard throughout with
   transmitted sounds in addition.
   CVS
 RR tachycardic, normal S1, S2, no M/R/G appreciated
   Abdomen
 soft, no response to deep palpation.
   Extremities
 bruising on forearms and diffuse edema throughout. Dusky
   left stump unchanged.
   Neurologic
 Low facial tone, no purposive and little spontaneous
   movement. No tracking, blink intact to stimulation of eyelashes, but
   not to confrontation. Difficult to assess CNs. Facial and bodily tone
   low. Non-responsive with some desynchronization of the EEG on potent
   tactile stimulation previously (cannot observe today, given no EEG
   electrodes replaced yet.)
   Labs / Radiology
   77 K/uL
   8.0 g/dL
   72 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.1 mEq/L
   35 mg/dL
   105 mEq/L
   143 mEq/L
   23.5 %
   10.2 K/uL
        [image002.jpg]
                            [**2197-11-16**]  04:00 AM
                            [**2197-11-16**]  11:00 AM
                             [**2197-11-17**]  02:45 AM
                             [**2197-11-17**]  04:00 PM
                             [**2197-11-18**]  03:00 AM
                             [**2197-11-18**]  05:58 PM
                             [**2197-11-19**]  04:49 AM
                             [**2197-11-20**]  04:19 AM
                             [**2197-11-21**]  02:45 AM
                             [**2197-11-21**]  05:24 AM
   WBC
   11.8
   17.7
   13.5
   10.6
   9.9
   8.7
   10.2
   Hct
   24.7
   25.6
   22.7
   23.2
   23.3
   24.0
   23.8
   22.4
   23.5
   Plt
   44
   56
   80
   59
   72
   89
   77
   Cr
   0.3
   0.4
   0.7
   0.9
   1.0
   1.4
   0.8
   TCO2
   33
   Glucose
   155
   81
   117
   139
   227
   221
   72
   Other labs: PT / PTT / INR:11.9/25.8/1.0, CK / CKMB /
   Troponin-T:11/10/0.57, ALT / AST:[**3-26**], Alk Phos / T Bili:42/0.1,
   Amylase / Lipase:27/25, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:18.4 %, Mono:4.5 %, Eos:1.2 %, Fibrinogen:473 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:159 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:0.8 mg/dL
   Imaging: See CXR
   Microbiology: Yeast in urine.
   (Was C. diff in stool on [**11-16**])
   (Pseudomonas in wound; Klebsiella in urine in mid [**Month (only) 3**])
   Assessment and Plan
   65 yo M admitted [**10-18**] for R LE BKA, with course c/b afib with RVR s/p
   DCCV x1, hypotension, and hypercarbic respiratory failure, on [**10-27**]
   prompting intubation and transient pressor support.  Patient was
   extubated during hospitalization, but then had to be re-intubated on
   [**10-31**] due to recurrent respiratory failure.  He continues to be
   difficult to manage given volume overloaded state, hypotension and
   seizure activity.
   Intermittent Desaturation
   Two events last night. First while suppine at end of dialysis; second
   later in the night with repositioning. Respiratory therapist says been
   evident before, but typically with more rapid recovery. In context of
   some cough and increase thick secretions, movement, so suspect mucus
   plugging and secretions as cause. On DVT prophylaxis, so PE unlikely
   and recovered between. Unlikely ACS. CXR unremarkable for developed
   PNA, pneumothorax etc., but does show widened mediastinum of unclear
   significance
 follow.
   - Keep on AC today
   - Blood culture
   - Sputum culture
   - Repeat CXR tomorrow
   - Aggressive lavage/pulm. toilet
   Hemodialysis
   Important to remove gadolinium, coodinate with vanc trough, consider
   replacing HD catheter (working with tPA at present) depending on goals
   of care.  Three session for dialysis of gad.  Hypokalemic this a.m. so
   Renal will use higher K dialysis fluid (4.0) today.
   - Will be this a.m. at around 8 a.m.
   - Follow line patency - consider replacement depending on goals of care
   Mental status/status epilepticus
   Neurology, Dr. [**Last Name (STitle) **], read as hypoxic/ischemic encephalopathy. Unclear
   if in status at present, but period of increased risk given HD.
   Question of hypoxic/anoxic brain injury despite negative earlier MRI.
   EEG and clinical findings consistent with diffuse
   encephalopathy.Neurologically, brainstem function intact, still without
   evidence of cortical function.  Has been desynchronization at least
   partially intact c/w intact forebrain arousal mechanism
   (lat. Hypothal -> cortex), but still unclear why dramatically impaired
   LOC (perhaps other component of arousal system, but also possible
   content component (thalamus -> cortex) given little sustained
   desynchrony.
   - Appreciate Neurology input and prognostication
   - Await formal read of MRI
   - Have EEG leads replaced this a.m. (possibly depending on goals of
   care and MRI)
   - Check phenobarb and dilantin levels (daily)
   - Continue phenobarbital 100 mg QID goal level 30
   - Continue dilantin 300 mg tid, goal of 15-20
   - Continue maintenance dose of Keppra 1500mg [**Hospital1 **]
   - Continue to follow neuro recs for possible later wean AEDs
   - Discuss with family regarding goals of care regarding hypoxic/anoxic
   brain injury
   Hypercarbic respiratory failure
   Worsened intermittently as described above.  Patient with chronic
   metabolic alkalosis on admission (no known COPD, OSA).  ABG during
   initial event consistent with hypoventilation (contributors include his
   myopathy, medications, though unclear if he received dilaudid or ultram
   prior to intubation).  Difficult to wean previously and now intubated
   for more than two weeks, necessitating discussion of goals of care for
   trach - given likely worsening chances of wean now.  Likely
   contribution from encephalopathy.
   - Continue AC for now
   - Discuss with family regarding goals of care and trach/peg given
   patients prolonged hospital course, extubation failure x 2 depending on
   above
   - Continue cellcept and prednisone (reduced from stress dose from 50 to
   25 Q8H) for treatment of necrotizing myopathy
   - Continue vancomycin IV/cefepime IV/vancomycin PO
   Hypotension
   Stable with SBP typically > 100 mmHg on minimal pressors (medodrine +
   0.2 neo). Likely [**12-19**] fluid shifts in the setting of HD. Less likely
   sepsis as no leukocytosis/fever. Less likely blood loss as Hct stable.
   [**Month (only) 51**] be developing VAP.
   - Continue to wean neo as tolerated (goal sBP > 90mmHg, MAP in 50s)
   - Continue midodrine
   - Increase hydrocortisone back to 50 mg IV q8 (reduced from 50mg to 25
   mg IV q8 yesterday)
   - Continue to hold lopressor
   Renal failure
   Stable anuria at ~ 75mL per 24 hours.  Likely ATN given patient
   recent hypotensive episodes and muddy brown casts in urine, but now
   without recovery.  Now on HD due to gadolinium. Line may need
   replacement but patent with tPA at present.
   - Discuss with family regarding goals of care and temporary HD versus
   tunneled line
   - HD today and tomorrow (and was last night)
   - Increased K in solution per Renal
   - Continue to follow renal recs
   - Add on vancomycin trough in case decide to continue
   - Continue daily electrolytes
   PVD s/p recent R BKA with wound infection, and distant history L BKA
   Most recent wound cxr from R BKA growing pseudomonas ([**10-28**]), resistant
   to meropenem, sensitive to cefepime. L LE with pallor and coolness,
   duskiness which is stable.
   - Last day vancomycin/cefepime (last day [**11-21**])
   - Continue aspirin, plavix
   - Continue to wean neo as tolerated
   C. diff + stool and leucocytosis
   Resolving WBC and diarrhea. On vancomycin (IV/PO)/cefepime, but will
   stop IVs today. Improving with c. diff treatment (PO vanc)
   - Continue vancomycin/cefepime (last day [**11-21**] concludes three week
   course)
   - Continue to follow up wound care recommendations regarding decubitus
   ulcer
   - Continue oral vancomycin for c. diff for two weeks after IV course
   completed
   Anemia, chronic disease
   Stable, down trending and resolve with blood transfusion. Per wife,
   receives chronic blood transfusions as outpatient. No evidence of
   bleed, hemolysis.
   - 1 unit PRBCs this AM to support dialysis given 23s.
   - Follow up PM Hct
   - Otherwise continue to transfuse prn goal Hct > 21
   - Obtain  stool guaiac x3
   - Continue to maintain active type and screen (last sent [**11-20**])
   Thrombocytopenia
   Stable, low but stable, now 77. Etiologies include bone marrow
   suppression, acute inflammation, drug adverse effect; HIT antibodies
   negative.
   - Continue heparin prophylaxis
   CAD
   - Continue aspirin, plavix
   - BB/ACEI if indicated in future, but certainly not soon.
   Systolic CHF
   - Continue daily weights
   - Continue HD fluid management per renal
   Necrotizing myopathy with history of myasthenia antibodies
   On cellcept/prednisone as an outpatient.  Cellcept was previously held,
   but resumed during last admission to [**Hospital1 19**] after discussion with
   patient
s neurologist.  Neurologist does not think that patient
   seizures are part of this disease process.  S/p IVIG x 5 days.
   - Continue steroids and cellcept as per above
   GERDL: Continue PPI
   Hypothyroidism: Continue synthroid
   DM2: Continue SSI; follow when weaning stress-dose steroids
   FEN: Tube feeds; free water flush 50mL q6h; aggressively replete
   electrolytes (will improve patient
s muscle tone which should improve
   respiratory status and peripheral circulation)
   Prophylaxis: PPI, heparin SQ [**Hospital1 **]
   Code: DNR
   Communication: Patient, wife [**Name (NI) 4617**] (cell) [**Telephone/Fax (1) 12121**], (home)
   [**Telephone/Fax (1) 12122**]; will be sure to update her with any changes in patient
   management or clinical status
   Disposition: ICU for now, pending improved respiratory and mental
   status
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-20**] 06:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-11-7**] 04:00 PM
   Dialysis Catheter - [**2197-11-12**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2197-11-22 07:26:00 Physician Resident Progress Note
Chief Complaint: Post-surgical (BKA), AF w/ RVR then status
   epilepticus, respiratory failure, renal failure and unresponsiveness.
   24 Hour Events:
   - Epilepsy recommends dilantin and free dilantin level; keep
   phenobarbital level at 20; keep AEDs at current levels to prevent
   status epilepticus; prognosis difficult to predict as no evidence of
   anoxic brain injury on MRI and symptoms can be related to post status
   epilepticus and recommend up to three weeks of current supportive
   management
   - Neurology recommends to restart continuous EEG to further evaluate
   for NCSE
   - Added propofol as an allergy as remote possibility of propofol
   related infusion syndrome
   - Final MRI read: no acute intracranial abnormality present
   Allergies:
   Penicillins
   Rash;
   Hydrocodone
   hallucinations;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Haldol (Injection) (Haloperidol Lactate)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Morphine
   Hallucinations;
   Atorvastatin
   Myopathy;
   Statins-Hmg-Coa Reductase Inhibitors
   Myopathy;
   Metoclopramide
   Unknown;
   Propofol
   Unknown; Drowsi
   Last dose of Antibiotics:
   Cefipime - [**2197-11-21**] 04:10 PM
   Vancomycin - [**2197-11-22**] 06:00 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-11-21**] 08:33 AM
   Pantoprazole (Protonix) - [**2197-11-21**] 12:09 PM
   Fosphenytoin - [**2197-11-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-22**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 77 (77 - 109) bpm
   BP: 121/45(64) {89/32(46) - 124/54(67)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.5 kg (admission): 93.2 kg
   Height: 70 Inch
             Total In:
                                                                  2,645 mL
                                                                    756 mL
   PO:
             TF:
                                                                  1,251 mL
                                                                    396 mL
   IVF:
                                                                    606 mL
                                                                    360 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                  4,079 mL
                                                                     35 mL
   Urine:
                                                                     79 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,434 mL
                                                                    721 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 448 (448 - 448) mL
   PS : 14 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: ///31/
   Ve: 9.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   116 K/uL
   8.4 g/dL
   156 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   30 mg/dL
   97 mEq/L
   136 mEq/L
   25.5 %
   9.4 K/uL
        [image002.jpg]
                             [**2197-11-17**]  04:00 PM
                             [**2197-11-18**]  03:00 AM
                             [**2197-11-18**]  05:58 PM
                             [**2197-11-19**]  04:49 AM
                             [**2197-11-20**]  04:19 AM
                             [**2197-11-21**]  02:45 AM
                             [**2197-11-21**]  05:24 AM
                             [**2197-11-21**]  04:00 PM
                             [**2197-11-22**]  04:05 AM
                             [**2197-11-22**]  06:00 AM
   WBC
   10.6
   9.9
   8.7
   10.2
   9.4
   Hct
   23.2
   23.3
   24.0
   23.8
   22.4
   23.5
   25.5
   Plt
   59
   72
   89
   77
   116
   Cr
   0.9
   1.0
   1.4
   0.8
   0.6
   0.8
   TCO2
   33
   Glucose
   139
   227
   221
   72
   148
   156
   Other labs: PT / PTT / INR:12.3/29.1/1.0, CK / CKMB /
   Troponin-T:11/10/0.57, ALT / AST:[**3-26**], Alk Phos / T Bili:42/0.1,
   Amylase / Lipase:27/25, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:18.4 %, Mono:4.5 %, Eos:1.2 %, Fibrinogen:473 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:159 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: MRI
   No acute mass, infarct or bleed is present. There is no area of
   ischemia
   either. Again noted are pooled secretions within the superior
   nasopharynx.
   The bilateral mastoid air cells are under-pneumatized. The venous and
   arterial intracranial vasculature is patent without evidence of
   stenosis or
   aneurysm formation.
   Microbiology: No growth on blood cultures ([**11-16**], [**11-19**], [**11-21**]). Previously
   yeast, kebsiella in urine and C. diff. in stool.
   Assessment and Plan
   65 yo M admitted [**10-18**] for R LE BKA, with course c/b afib with RVR s/p
   DCCV x1, hypotension, and hypercarbic respiratory failure, on [**10-27**]
   prompting intubation and transient pressor support.  Patient was
   extubated during hospitalization, but then had to be re-intubated on
   [**10-31**] due to recurrent respiratory failure.  He continues to be
   difficult to manage given volume overloaded state, hypotension and
   seizure activity.
   Intermittent Desaturation
   Two events last night. First while suppine at end of dialysis; second
   later in the night with repositioning. Respiratory therapist says been
   evident before, but typically with more rapid recovery. In context of
   some cough and increase thick secretions, movement, so suspect mucus
   plugging and secretions as cause. On DVT prophylaxis, so PE unlikely
   and recovered between. Unlikely ACS. CXR unremarkable for developed
   PNA, pneumothorax etc., but does show widened mediastinum of unclear
   significance
 follow.
   - Keep on AC today
   - Blood culture
   - Sputum culture
   - Repeat CXR tomorrow
   - Aggressive lavage/pulm. toilet
   Hemodialysis
   Important to remove gadolinium, coodinate with vanc trough, consider
   replacing HD catheter (working with tPA at present) depending on goals
   of care.  Three session for dialysis of gad.  Hypokalemic this a.m. so
   Renal will use higher K dialysis fluid (4.0) today.
   - Will be this a.m. at around 8 a.m.
   - Follow line patency - consider replacement depending on goals of care
   Mental status/status epilepticus
   Neurology, Dr. [**Last Name (STitle) **], read as hypoxic/ischemic encephalopathy. Unclear
   if in status at present, but period of increased risk given HD.
   Question of hypoxic/anoxic brain injury despite negative earlier MRI.
   EEG and clinical findings consistent with diffuse
   encephalopathy.Neurologically, brainstem function intact, still without
   evidence of cortical function.  Has been desynchronization at least
   partially intact c/w intact forebrain arousal mechanism
   (lat. Hypothal -> cortex), but still unclear why dramatically impaired
   LOC (perhaps other component of arousal system, but also possible
   content component (thalamus -> cortex) given little sustained
   desynchrony.
   - Appreciate Neurology input and prognostication
   - Await formal read of MRI
   - Have EEG leads replaced this a.m. (possibly depending on goals of
   care and MRI)
   - Check phenobarb and dilantin levels (daily)
   - Continue phenobarbital 100 mg QID goal level 30
   - Continue dilantin 300 mg tid, goal of 15-20
   - Continue maintenance dose of Keppra 1500mg [**Hospital1 **]
   - Continue to follow neuro recs for possible later wean AEDs
   - Discuss with family regarding goals of care regarding hypoxic/anoxic
   brain injury
   Hypercarbic respiratory failure
   Worsened intermittently as described above.  Patient with chronic
   metabolic alkalosis on admission (no known COPD, OSA).  ABG during
   initial event consistent with hypoventilation (contributors include his
   myopathy, medications, though unclear if he received dilaudid or ultram
   prior to intubation).  Difficult to wean previously and now intubated
   for more than two weeks, necessitating discussion of goals of care for
   trach - given likely worsening chances of wean now.  Likely
   contribution from encephalopathy.
   - Continue AC for now
   - Discuss with family regarding goals of care and trach/peg given
   patients prolonged hospital course, extubation failure x 2 depending on
   above
   - Continue cellcept and prednisone (reduced from stress dose from 50 to
   25 Q8H) for treatment of necrotizing myopathy
   - Continue vancomycin IV/cefepime IV/vancomycin PO
   Hypotension
   Stable with SBP typically > 100 mmHg on minimal pressors (medodrine +
   0.2 neo). Likely [**12-19**] fluid shifts in the setting of HD. Less likely
   sepsis as no leukocytosis/fever. Less likely blood loss as Hct stable.
   [**Month (only) 51**] be developing VAP.
   - Continue to wean neo as tolerated (goal sBP > 90mmHg, MAP in 50s)
   - Continue midodrine
   - Increase hydrocortisone back to 50 mg IV q8 (reduced from 50mg to 25
   mg IV q8 yesterday)
   - Continue to hold lopressor
   Renal failure
   Stable anuria at ~ 75mL per 24 hours.  Likely ATN given patient
   recent hypotensive episodes and muddy brown casts in urine, but now
   without recovery.  Now on HD due to gadolinium. Line may need
   replacement but patent with tPA at present.
   - Discuss with family regarding goals of care and temporary HD versus
   tunneled line
   - HD today and tomorrow (and was last night)
   - Increased K in solution per Renal
   - Continue to follow renal recs
   - Add on vancomycin trough in case decide to continue
   - Continue daily electrolytes
   PVD s/p recent R BKA with wound infection, and distant history L BKA
   Most recent wound cxr from R BKA growing pseudomonas ([**10-28**]), resistant
   to meropenem, sensitive to cefepime. L LE with pallor and coolness,
   duskiness which is stable.
   - Last day vancomycin/cefepime (last day [**11-21**])
   - Continue aspirin, plavix
   - Continue to wean neo as tolerated
   C. diff + stool and leucocytosis
   Resolving WBC and diarrhea. On vancomycin (IV/PO)/cefepime, but will
   stop IVs today. Improving with c. diff treatment (PO vanc)
   - Continue vancomycin/cefepime (last day [**11-21**] concludes three week
   course)
   - Continue to follow up wound care recommendations regarding decubitus
   ulcer
   - Continue oral vancomycin for c. diff for two weeks after IV course
   completed
   Anemia, chronic disease
   Stable, down trending and resolve with blood transfusion. Per wife,
   receives chronic blood transfusions as outpatient. No evidence of
   bleed, hemolysis.
   - 1 unit PRBCs this AM to support dialysis given 23s.
   - Follow up PM Hct
   - Otherwise continue to transfuse prn goal Hct > 21
   - Obtain  stool guaiac x3
   - Continue to maintain active type and screen (last sent [**11-20**])
   Thrombocytopenia
   Stable, low but stable, now 77. Etiologies include bone marrow
   suppression, acute inflammation, drug adverse effect; HIT antibodies
   negative.
   - Continue heparin prophylaxis
   CAD
   - Continue aspirin, plavix
   - BB/ACEI if indicated in future, but certainly not soon.
   Systolic CHF
   - Continue daily weights
   - Continue HD fluid management per renal
   Necrotizing myopathy with history of myasthenia antibodies
   On cellcept/prednisone as an outpatient.  Cellcept was previously held,
   but resumed during last admission to [**Hospital1 19**] after discussion with
   patient
s neurologist.  Neurologist does not think that patient
   seizures are part of this disease process.  S/p IVIG x 5 days.
   - Continue steroids and cellcept as per above
   GERD: Continue PPI
   Hypothyroidism: Continue synthroid
   DM2: Continue SSI; follow when weaning stress-dose steroids
   FEN: Tube feeds; free water flush 50mL q6h; aggressively replete
   electrolytes (will improve patient
s muscle tone which should improve
   respiratory status and peripheral circulation)
   Prophylaxis: PPI, heparin SQ [**Hospital1 **]
   Code: DNR
   Communication: Patient, wife [**Name (NI) 4617**] (cell) [**Telephone/Fax (1) 12121**], (home)
   [**Telephone/Fax (1) 12122**]; will be sure to update her with any changes in patient
   management or clinical status
   Disposition: ICU for now, pending improved respiratory and mental
   status
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2197-11-21**] 01:15 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2197-11-7**] 04:00 PM
   Dialysis Catheter - [**2197-11-12**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: